US07790720B2
A solution of (2-chloro-1,3-oxazol-4-yl)methanol (5 g, 37.44 mmol, 1 eq, prepared according to the method described in Tetrahedron Lett. (2004), 45, 3797-3802) in dichloromethane (250 ml) is reacted with methanesulfonyl chloride (3.19 ml, 41.19 mmol, 1.1 eq) in the presence of triethylamine (5.79 ml, 41.19 mmol, 1.1 eq) at 0° C. After 1 h 30, the mixture is poured into a saturated solution of ammonium chloride and extracted twice with dichloromethane. The organic layer is dried over magnesium sulfate, filtered and concentrated under vacuum to afford 7.9 g of (2-chloro-1,3-oxazol-4-yl)methyl methanesulfonate i59. This product is used in the next step without further purification or analysis.

reactant | (2-chloro-1,3-oxazol-4-yl)methanol | ClC=1OC=C(N1)CO | C4H4ClNO2
reactant | methanesulfonyl chloride | 41.19 mmol, 3.19 ml, 1.1 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 41.19 mmol, 5.79 ml, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | (2-chloro-1,3-oxazol-4-yl)methyl methanesulfonate | 7.9 g | CS(=O)(=O)OCC=1N=C(OC1)Cl | C5H6ClNO4S
